US09302991B2
<Step-2>:(S)—N-(1-(2-fluoro-5-(trifluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
To a solution of (S,E)-N-(2-fluoro-5-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide (single enantiomer) (150 mg, 0.51 mmol, Step-1) in dichloromethane (5 mL) is added dropwise a solution of methylmagnesium bromide in THF (0.99 M, 2.57 mL, 2.54 mmol) at −78° C. The resulting mixture is stirred at −78° C. for 2 hours and at room temperature for 1 hour. The reaction is quenched by saturated aqueous ammonium chloride solution (50 mL), and the aqueous phase is extracted with EtOAc (50 mL×2). The combined organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/EtOAc (3:1-1:1) to give 63 mg (40% yield) of the title compound as a white solid.

reactant | (S,E)-N-(2-fluoro-5-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide | 0.51 mmol, 150 mg | FC1=C(\C=N\[S@@](=O)C(C)(C)C)C=C(C=C1)C(F)(F)F | C12H13F4NOS
reactant | methylmagnesium bromide | C[Mg]Br
reactant | THF | 2.54 mmol, 0.99 M, 2.57 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)—N-(1-(2-fluoro-5-(trifluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 63 mg, 40% yield | FC1=C(C=C(C=C1)C(F)(F)F)C(C)N[S@@](=O)C(C)(C)C | C13H17F4NOS
